US04192800
A stirred mixture of 3-acetylamino-4-(2', 4'-dibromo-6'-methylphenylazo)-N,N-diethylaniline (4.8 parts), copper (I) iodide (2.0 parts), formaldoxime trimer (1.8 parts), triethylamine (1.5 parts), and nitrobenzene (100 parts) was heated to 90° C. for 11/2 hours when thin layer chromatography showed reaction to be complete. Isolation by the method of Example 3 gave 3-acetylamino-4-(2'-cyano-4'-bromo-6'-methylphenylazo)-N,N-diethylaniline, infra red spectrum identical with that of authentic material.

reactant | 3-acetylamino-4-(2', 4'-dibromo-6'-methylphenylazo)-N,N-diethylaniline | C(C)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1C)Br)Br | C19H22Br2N4O
reactant | formaldoxime | C=NO | CH3NO
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper (I) iodide | [Cu]I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-acetylamino-4-(2'-cyano-4'-bromo-6'-methylphenylazo)-N,N-diethylaniline | C(C)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1C)Br)C#N | C20H22BrN5O
